US07026478B2
A solution of phenylmagnesium bromide (1M in THF, 3.9 mL, 3.9 mmol) is added to a solution of 2-chloro-4,6-dimethoxy-1,3,5-triazine (300 mg, 1.70 mmol) and Fe(acac)3 (30 mg, 0.085 mmol) in THF (10 mL) at −30° C. After stirring for 30 min at that temperature, the reaction is quenched with brine, the aqueous layer is extracted with Et2O, the combined organic phases are dried over Na2SO4 and evaporated, and the residue is purified by flash chromatography (hexane/ethyl acetate, 10:1). After eluting a first fraction containing biphenyl (103 mg), one obtains 2-phenyl-4,6-dimethoxy-1,3,5-triazine as a colorless solid (231 mg, 63%). 1H NMR (300 MHz, CD2Cl2) δ 8.47 (d, 2H), 7.47–7.56 (m, 3H), 4.08 (s, 3H). 13C NMR (75 MHz, CD2Cl2) δ 175.0, 173.3, 135.6, 133.0, 129.2, 128.8, 55.4.

reactant | phenylmagnesium bromide | 3.9 mmol, 1M, 3.9 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 1.70 mmol, 300 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-phenyl-4,6-dimethoxy-1,3,5-triazine | 231 mg, 63% | C1(=CC=CC=C1)C1=NC(=NC(=N1)OC)OC | C11H11N3O2
